US08802864B2
4-(4-Bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.100 g, 0.256 mmol), 1H-indol-6-ylboronic acid (0.082 g, 0.511 mmol), tetrakis(triphenylphosphine)palladium(0) (0.030 g, 0.026 mmol), and K3PO4 (0.217 g, 1.022 mmol) were combined in ethanol (4 mL) and water (4 mL), purged with N2, and irradiated in a microwave reactor for 1 h at 110° C. after which time LCMS indicated complete conversion. The reaction mixture was filtered through Celite, diluted with 100 mL EtOH and concentrated to dryness. The residue was partitioned between dichloromethane and water (a minimal amount of CH3OH was added to achieve complete solubility), and the organic phase was isolated, dried over MgSO4, filtered and concentrated to dryness. The residue was purified on 40 g silica gel eluted with 100% EtOAc to 10% CH3OH/CH2Cl2 to give 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(1H-indol-6-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.115 g, 0.269 mmol, quantitative yield) as a white foam. LC-MS (ES−) m/z 426.51 [M−1]. LC-MS (ES+) m/z 428.30 [M+H]. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.72 (d, J=4.08 Hz, 1H), 11.23 (s, 1H), 7.82 (dd, J=8.49, 2.79 Hz, 2H), 7.69 (s, 1H), 7.64 (d, J=8.27 Hz, 1H), 7.48 (dd, J=8.43, 6.50 Hz, 2H), 7.41 (t, J=2.69 Hz, 1H), 7.36 (dd, J=8.27, 1.50 Hz, 1H), 6.47 (t, J=2.04 Hz, 1H), 3.61-3.86 (m, 1H), 3.47-3.60 (m, 1H), 2.87-3.43 (m, 2H), 2.34-2.66 (m, 3H), 1.91-2.13 (m, 1H), 1.44-1.74 (m, 2H), 0.61-0.73 (m, 4H).

reactant | 4-(4-Bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.256 mmol, 0.100 g | BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O | C17H19BrN4O2
reactant | 1H-indol-6-ylboronic acid | 0.511 mmol, 0.082 g | N1C=CC2=CC=C(C=C12)B(O)O | C8H8BNO2
reactant | K3PO4 | 1.022 mmol, 0.217 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.026 mmol, 0.030 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(1H-indol-6-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.269 mmol, 0.115 g, quantitative yield | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C25H25N5O2
